US07795267B2
Ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate
Ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate dihydrochloride (21 g, 52 mmol) was neutralized with an aqueous sodium hydrogen carbonate solution, and then extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain the title compound (18 g, quantitative). The obtained compound was used in the next process without further purification.

reactant | Ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate dihydrochloride | 52 mmol, 21 g | Cl.Cl.C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | Ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate | 18 g | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
